US04670604
2.5 g of 10% Pd-on-charcoal are added to a solution of 10 g of 2-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-6-nitro-benzonitrile and 10 g of cyclohexene in 500 ml of ethanol and the mixture is refluxed for 30 minutes. After cooling to room temperature, it is filtered and freed from the solvent. Ether is added to the residue and the crystals which have separated out are filtered off. 2-Amino-6-{-3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-benzonitrile is obtained.

reactant | 2-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-6-nitro-benzonitrile | 10 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=C1)CCC(F)(F)F)O | C21H19F3N2O6
reactant | cyclohexene | 10 g | C1=CCCCC1 | C6H10
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-Amino-6-{-3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-benzonitrile | NC1=C(C#N)C(=CC=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC(F)(F)F | C21H21F3N2O4
